### PR TITLE
feat(AlgebraicTopology): nerve preserves products

### PR DESCRIPTION
**Pull request by sweeneyde**
This formalizes the fact that a composable chain of pairs can be identified with a pair of composable chains.

It may be useful in the future for converting a natural transformation into a simplicial homotopy.

---

I added this to a different file to avoid the circular import from `Nerve -> Monoidal -> StdSimplex -> NerveNondegenerate -> Nerve`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+
+universe v u
+
+namespace CategoryTheory.nerve
+
+section
+variable (C₁ C₂ : Type u) [Category.{v} C₁] [Category.{v} C₂]
+
+/-- Map a nerve of a product category to product of the nerves. -/
+def nerveProdToProdNerve : nerve (C₁ × C₂) ⟶ (nerve C₁) ⊗ (nerve C₂) := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: As the nerve is defined in terms of `ComposableArrows`, I think that we should first define a bijection `ComposableArrows.prodEquiv`. Actually, it would make sense to define an equivalence of categories `ComposableArrows.prodEquivalence`, and show that it is actually an isomorphism of categories (`IsoCat`).

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+  let app (n : SimplexCategoryᵒᵖ) : (nerve (C₁ × C₂)).obj n ⟶ (nerve C₁ ⊗ nerve C₂).obj n := by
+    constructor
+    exact ⟨fun γ ↦ ⟨γ ⋙ (CategoryTheory.Prod.fst C₁ C₂), γ ⋙ (CategoryTheory.Prod.snd C₁ C₂)⟩⟩
+  constructor
+  · intro m n d
+    exact Eq.symm
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: For such proofs, instead of term mode, it is advisable to use tactic mode, and to use automation as much as possible.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean (hunk 1 above)
Comment (sweeneyde) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: Done! I think it looks cleaner now.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+
+/-- Map a product of nerves to the nerve of the product category. -/
+def prodNerveToNerveProd : (nerve C₁) ⊗ (nerve C₂) ⟶ nerve (C₁ × C₂) where
+  app n := ↾(ComposableArrows.prodEquivalence C₁ C₂ n.unop.len).inverse.obj
+
+/-- `nerve` preserves products. -/
+def nerveOfProductIso : nerve (C₁ × C₂) ≅ (nerve C₁) ⊗ (nerve C₂) where
+  hom := nerveProdToProdNerve C₁ C₂
+  inv := prodNerveToNerveProd C₁ C₂
+end
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: This should use `prodIsoCat`. Could you also use `NatIso.ofComponents`?

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+
+section
+variable {C₁ C₂ : Type u} [Category.{v} C₁] [Category.{v} C₂]
+variable {D₁ D₂ : Type u} [Category.{v} D₁] [Category.{v} D₂]
+
+/-- Convert a pair of functors to a map between products of nerves -/
+def nerveOfProdMap (F₁ : C₁ ⥤ D₁) (F₂ : C₂ ⥤ D₂) :
+    (nerve C₁) ⊗ (nerve C₂) ⟶ (nerve D₁) ⊗ (nerve D₂) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: Could you remove unnecessary parentheses?

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 5]
```diff
@@ -0,0 +1,61 @@
...
+  prodNerveToNerveProd C₁ C₂ ≫ nerveMap (F₁.prod F₂) ≫ nerveProdToProdNerve D₁ D₂
+
+lemma nerveOfProdMap_prod_nerveMap (F₁ : C₁ ⥤ D₁) (F₂ : C₂ ⥤ D₂) :
+    nerveOfProdMap F₁ F₂ = nerveMap F₁ ⊗ₘ nerveMap F₂ := rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: This lemma suggests that the definition `nerveOfProdMap` is unnecessary.

**Comment by joelriou** [comment]
Could you add a `Functor.Monoidal` instance on `nerveFunctor`?

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean (hunk 3 above)
Comment (sweeneyde) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: I added the bijection `prodEquiv : ComposableArrows (C × D) n ≃ ComposableArrows C n × ComposableArrows D n`. I'm not sure the additional data of an isomorphism of categories actually helps, since the morphisms in a `ComposableArrows` category don't seem to be necessary for the nerve.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: Could you add a definition `IsoCat.objEquiv` in the file `Mathlib/CategoryTheory/IsoCat.lean` and use it in your PR?

File: Mathlib/CategoryTheory/IsoCat.lean [hunk 6]
```diff
@@ -170,6 +170,13 @@ instance IsoCat.isIso_functor (e : IsoCat C D) : e.functor.IsIso where
     ⟨e.inverse.obj, fun X => (Functor.congr_obj e.unit_eq X).symm,
       Functor.congr_obj e.counit_eq⟩
 
+/-- Convert an isomorphism of categories into a bijection on objects. -/
+def IsoCat.objEquiv (e : IsoCat C D) : C ≃ D where
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/IsoCat.lean:175]:
```suggestion
@[implicit_reducible, simps]
def IsoCat.objEquiv (e : IsoCat C D) : C ≃ D where
```

File: Mathlib/CategoryTheory/ComposableArrows/Basic.lean [hunk 7]
```diff
@@ -1047,4 +1048,29 @@ def Functor.mapComposableArrowsOpIso :
 
 end
 
+namespace ComposableArrows
+
+section
+variable (D : Type*) [Category* D] (n : ℕ)
+
+/-- `ComposableArrows` preserves products, up to equivalence of categories. -/
+def prodEquivalence : ComposableArrows (C × D) n ≌ ComposableArrows C n × ComposableArrows D n :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ComposableArrows/Basic.lean]: `ComposableArrows` is an `abbrev`, so I think it would make sense to also make this an `abbrev`. This way, API from `functorProdFunctorEquiv` is inherited.

File: Mathlib/CategoryTheory/ComposableArrows/Basic.lean [hunk 8]
```diff
@@ -1047,4 +1048,29 @@ def Functor.mapComposableArrowsOpIso :
...
+  (functorProdFunctorEquiv (Fin (n + 1)) C D).symm
+
+/-- `ComposableArrows` preserves products, up to isomorphism of categories. -/
+def prodIsoCat : IsoCat (ComposableArrows (C × D) n)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ComposableArrows/Basic.lean]: If `prodEquivalence` is turned into an abbrev, then, this can be an abbrev for a more general `IsoCat` for functors to a product category.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+
+variable {E₁ E₂ : Type u} [Category.{v} E₁] [Category.{v} E₂]
+
+lemma nerve_of_product_interchange (F₁ : C₁ ⥤ D₁) (F₂ : C₂ ⥤ D₂) (G₁ : D₁ ⥤ E₁) (G₂ : D₂ ⥤ E₂) :
+    (nerveMap F₁ ⊗ₘ nerveMap F₂) ≫ (nerveMap G₁ ⊗ₘ nerveMap G₂)
+    = nerveMap (F₁ ⋙ G₁) ⊗ₘ nerveMap (F₂ ⋙ G₂) := rfl
+end
+
+/-- The nerve of the terminal category is the terminal simplicial set. -/
+def nerveOfTerminal : nerve (𝟙_ Cat.{v,u}) ≅ 𝟙_ SSet where
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: Can this be an instance of a more general isomorphism given a terminal category and a terminal `SSet`? This way we can also construct isomorphisms `nerve PUnit ≅ Δ[0]`.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 10]
```diff
@@ -0,0 +1,78 @@
...
+
+end
+
+section
+variable {C₁ C₂ : Type u} [Category.{v} C₁] [Category.{v} C₂]
+variable {D₁ D₂ : Type u} [Category.{v} D₁] [Category.{v} D₂]
+
+lemma nerveOfProdMap_prod_nerveMap (F₁ : C₁ ⥤ D₁) (F₂ : C₂ ⥤ D₂) :
+    prodNerveToNerveProd C₁ C₂ ≫ nerveMap (F₁.prod F₂) ≫ nerveProdToProdNerve D₁ D₂
+    = nerveMap F₁ ⊗ₘ nerveMap F₂ := rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: Style nit: in Mathlib, we usually put continuation `=` (and more generally infix operators) at the end of the line, not the beginning.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 11]
```diff
@@ -0,0 +1,78 @@
...
+/-- `nerve` preserves products. -/
+def nerveProdIso : nerve (C₁ × C₂) ≅ nerve C₁ ⊗ nerve C₂ := by
+  let app (n : SimplexCategoryᵒᵖ) := (ComposableArrows.prodEquiv C₁ C₂ n.unop.len).toIso
+  exact NatIso.ofComponents app
+
+/-- Map a nerve of a product category to product of the nerves. -/
+def nerveProdToProdNerve : nerve (C₁ × C₂) ⟶ nerve C₁ ⊗ nerve C₂ := (nerveProdIso C₁ C₂).hom
+
+/-- Map a product of nerves to the nerve of the product category. -/
+def prodNerveToNerveProd : nerve C₁ ⊗ nerve C₂ ⟶ nerve (C₁ × C₂) := (nerveProdIso C₁ C₂).inv
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: These seems like superfluous definitions: the equational theorems you give below are enough to characterize `nerveProdIso`.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean [hunk 12]
```diff
@@ -0,0 +1,78 @@
...
+  hom := SemiCartesianMonoidalCategory.toUnit _
+  inv := {
+    app n := by
+      repeat constructor
+      intro _
+      exact {
+        obj _ := by repeat constructor
+        map _ := by repeat constructor
+      }
+  }
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: We usually avoid constructing data in tactic mode when possible. Here, one equivalent way to define this is
```suggestion
  inv.app _ := TypeCat.ofHom fun _ ↦ 
    { obj _ := ⟨⟨⟨⟩⟩⟩
      map f := ⟨⟨⟨rfl⟩⟩⟩ }
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean (hunk 9 above)
Comment (sweeneyde) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveProduct.lean]: I believe the specific is enough to derive the general if we have the fact that all terminal objects are isomorphic. But I inlined this into the `instance : Functor.Monoidal nerveFunctor` declaration, since my purpose in including this was just to finish that instance declaration anyway.

**Comment by sweeneyde** [comment]
I realized that `nerveOfProdMap_prod_nerveMap` follows immediately from `Functor.LaxMonoidal.μ_natural`, and `nerve_of_product_interchange` follows immediately from the functoriality of `nerveMap` and `MonoidalCategory.tensorHom_comp_tensorHom`.
